US09375000B2
1-{4-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-(trifluoromethyl)phenyl}-methanamine (0.20 g) was dissolved in tetrahydrofuran (5 mL). To the resulting solution was added propionic acid anhydride (0.06 g) at room temperature and stirred for 2 hours. The reaction solution was diluted with water and extracted twice with ethyl acetate. The organic layers were combined, washed with water, and dried over magnesium sulfate. The drying agent was filtered off and the solvent was distilled off under reduced pressure to obtain a crude product. This crude product was purified by silica gel column chromatography to obtain N-{4-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-pyrrolidin-1-yl]-2-(trifluoromethyl)benzyl}propanamide (0.18 g).

reactant | 1-{4-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-(trifluoromethyl)phenyl}-methanamine | 0.20 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=CC(=C(C=C1)CN)C(F)(F)F)C(F)(F)F | C19H15Cl3F6N2
reactant | propionic acid anhydride | 0.06 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-{4-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-pyrrolidin-1-yl]-2-(trifluoromethyl)benzyl}propanamide | 0.18 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=CC(=C(CNC(CC)=O)C=C1)C(F)(F)F)C(F)(F)F | C22H19Cl3F6N2O
